US05409928
Preparation of 3-amino-4-(4-benzylphenyl)pyrazole
A mixture of 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole (1.00 g), sodium hydroxide (1.00 g), methanol (40 ml) and water (40 ml) was stirred under heating reflux for 3.5 hours, and ice-water was added.

reactant | 3-amino-4-(4-benzylphenyl)-2-carbamoylpyrazole | 1.00 g | NC=1N(N=CC1C1=CC=C(C=C1)CC1=CC=CC=C1)C(N)=O | C17H16N4O
reactant | sodium hydroxide | 1.00 g | [OH-].[Na+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 40 ml | O | H2O
product | 3-amino-4-(4-benzylphenyl)pyrazole | NC1=NNC=C1C1=CC=C(C=C1)CC1=CC=CC=C1 | C16H15N3
